US07435837B2
(±)-{[6-fluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine
The title compound was prepared (0.053 g, 72%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-[6-fluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.1 g, 0.24 mmol) and methylamine (0.31 g, 10.0 mmol). mp 200-202° C.

reactant | (±)-[6-fluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.24 mmol, 0.1 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC(=C2C2=C(C=CC=C2)C)F | C23H21FO4S
reactant | methylamine | 10.0 mmol, 0.31 g | CN | CH5N
product | (±)-{[6-fluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine | FC1=C(C2=C(CC(O2)CNC)C=C1)C1=C(C=CC=C1)C | C17H18FNO
